US04764361
A solution of (-)-N-(2-[2-hydroxy-3-phenoxypropyl]aminoethyl)isobutyramide (0.7 g) in anhydrous ether (10 ml) was treated with an excess of a saturated solution of hydrogen chloride in anhydrous ether. The solid which formed was collected and recrystallised twice from a mixture of methanol and anhydrous ether to give (-)-N-[2-hydroxy-3-phenoxypropyl]-N-(2-isobutyramidoethyl)ammonium chloride, m.p. 137°-139° C; 25 [α]D -19.7° [c, 1.135; methanol]; microanalysis C15H24N2O3.HCl requires: C, 56.87; H, 7.90; N, 8.84; Cl, 11.20%; found: C, 56.80; H, 8.0; N, 8.6; Cl, 11.1%.

reactant | (-)-N-(2-[2-hydroxy-3-phenoxypropyl]aminoethyl)isobutyramide | 0.7 g | OC(CNCCNC(C(C)C)=O)COC1=CC=CC=C1 | C15H24N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
product | (-)-N-[2-hydroxy-3-phenoxypropyl]-N-(2-isobutyramidoethyl)ammonium chloride | [Cl-].OC(C[NH2+]CCNC(C(C)C)=O)COC1=CC=CC=C1 | InChI=1S/C15H24N2O3.ClH/c1-12(2)15(19)17-9-8-16-10-13(18)11-20-14-6-4-3-5-7-14;/h3-7,12-13,16,18H,8-11H2,1-2H3,(H,17,19);1H
